US08835411B2
Diethyl 2-(1-(benzyloxycarbonylamino)-4-fluoro-4-(hydroxymethyl)cyclohexanecarboximidamidooxy)but-2-enedioate
A flask was charged with benzyl 1-cyano-4-fluoro-4-(hydroxymethyl)cyclohexylcarbamate, Intermediate 33, (13.0 g, 42.4 mmol), EtOH (100 mL) and aqueous hydroxylamine (26.0 mL, 424 mmol). The reaction was stirred at 80° C. under nitrogen for 2 hours. The mixture was concentrated and the resulting residue diluted with CH2Cl2, washed with brine, dried (MgSO4) and the solvent evaporated to provide a colorless oil. The oil was dissolved in EtOH (100 mL) to which diethyl acetylenedicarboxylate (13.54 mL, 85 mmol) was added. The reaction was stirred under nitrogen for one hour. The solution was concentrated and the residue was dissolved in CH2Cl2 then purified by silica gel column chromatography eluting with hexane/ethyl acetate (0 to 100%). The appropriate fractions were combined and evaporated to give the title compound (13.01 g, 25.5 mmol, 60.2% yield)] as a light yellow syrup.

reactant | benzyl 1-cyano-4-fluoro-4-(hydroxymethyl)cyclohexylcarbamate | C(#N)C1(CCC(CC1)(CO)F)NC(OCC1=CC=CC=C1)=O | C16H19FN2O3
reactant | hydroxylamine | 424 mmol, 26.0 mL | NO | H3NO
reactant | diethyl acetylenedicarboxylate | 85 mmol, 13.54 mL | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | EtOH | 100 mL | CCO | C2H6O
product | Diethyl 2-(1-(benzyloxycarbonylamino)-4-fluoro-4-(hydroxymethyl)cyclohexanecarboximidamidooxy)but-2-enedioate | 25.5 mmol, 13.01 g, 60.2% yield | C(C1=CC=CC=C1)OC(=O)NC1(CCC(CC1)(CO)F)C(NOC(C(=O)OCC)=CC(=O)OCC)=N | C24H32FN3O8
